US05750531
Step 4: 5-Methyl-6-ethyl-4-(2-methyl-4-fluorophenylamino)-2-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After 2-methyl-4-fluoroaniline(0.42 ml, 3.8 mmol) was added to a mixture solution of 5-methyl-6-ethyl-2-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-4-chloropyrimidine(0.6 g, 2.0 mmol) and dimethylformamide(10 ml), 0.35 g of the titled compound was obtained in accordance with the same procedure as in Step 4 of Example 57.

reactant | 2-methyl-4-fluoroaniline | 3.8 mmol, 0.42 ml | CC1=C(N)C=CC(=C1)F | C7H8FN
reactant | 5-methyl-6-ethyl-2-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-4-chloropyrimidine | 2.0 mmol, 0.6 g | CC=1C(=NC(=NC1CC)N1C(C2=CC=CC=C2CC1)C)Cl | C17H20ClN3
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 5-Methyl-6-ethyl-4-(2-methyl-4-fluorophenylamino)-2-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 0.35 g, Yield: 41% | Cl.CC=1C(=NC(=NC1CC)N1C(C2=CC=CC=C2CC1)C)NC1=C(C=C(C=C1)F)C | InChI=1S/C24H27FN4.ClH/c1-5-21-16(3)23(26-22-11-10-19(25)14-15(22)2)28-24(27-21)29-13-12-18-8-6-7-9-20(18)17(29)4;/h6-11,14,17H,5,12-13H2,1-4H3,(H,26,27,28);1H
